US04350692
Thus obtained ethyl 2-[2-(N-methyl-N-phenylcarbamoyl)phenoxy]acetate (18.23 g.) was added to 10% solution of potassium hydroxide in methanol (2 parts) and water (1 part), and the solution was stirred at room temperature for an hour and allowed to stand overnight. After concentrating the solution under reduced pressure, ethyl acetate was added to the concentrate. After shaking sufficiently, the aqueous solution was separated, acidified with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure to give crystals (13.21 g.) of 2-[2-(N-methyl-N-phenylcarbamoyl)phenoxy]acetic acid.

reactant | ethyl 2-[2-(N-methyl-N-phenylcarbamoyl)phenoxy]acetate | 18.23 g | CN(C(=O)C1=C(OCC(=O)OCC)C=CC=C1)C1=CC=CC=C1 | C18H19NO4
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-[2-(N-methyl-N-phenylcarbamoyl)phenoxy]acetic acid | 13.21 g | CN(C(=O)C1=C(OCC(=O)O)C=CC=C1)C1=CC=CC=C1 | C16H15NO4
